US05164407
A mixture of 3,4-diaminothiophene (116 mg, 1.01 mmol) and ethyl valeroimidate hydrochloride (504 mg, 3.05 mmol) in absolute ethanol (20 mL) was heated to reflux for 1 hour, cooled to room temperature and stirred for 15 hours. The mixture was concentrated and purified by flash chromatography (SiO2, 25% EtOAc/hexanes) to give 140 mg (78%) of 2-n-butyl-1H-thieno[3,4-d]imidazole as a tan solid: 1H NMR (300 MHz, CDCl3)δ 6.70 (s, 2H), 2.81 (t, 2H, J=7.5 Hz), 1.88-1.74 (m, 2H), 1.48-1.35 (m, 2H), 0.90 (t, 3H, J=7.2 Hz); FAB-MS: 181 (M+ +1).

reactant | 3,4-diaminothiophene | 1.01 mmol, 116 mg | NC1=CSC=C1N | C4H6N2S
reactant | ethyl valeroimidate hydrochloride | 3.05 mmol, 504 mg | Cl.C(CCCC)(OCC)=N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-n-butyl-1H-thieno[3,4-d]imidazole | 140 mg, 78% | C(CCC)C1=NC=2C(N1)=CSC2 | C9H12N2S
